US08476286B2
A solution of 144 mg (0.53 mmol) 1,1-bis-(4-methoxy-phenyl)-urea, 160 μl (1.06 mmol) cumic aldehyde and 16 μl (0.27 mmol) methane sulfonic acid in 1 ml diglyme is heated for 4 d at 100°. The reaction mixture is extracted with water/dichloromethane and the intermediate dihydro-quinazolinone is isolated by preparative HPLC. Oxidation with ruthenium trichloride and sodium periodate, as described above, furnishes 4-(4-isospropyl-phenyl)-6-methoxy-1-(4-methoxy-phenyl)-1.H.-quinazolin-2-one.

reactant | 1,1-bis-(4-methoxy-phenyl)-urea | 0.53 mmol, 144 mg | COC1=CC=C(C=C1)N(C(=O)N)C1=CC=C(C=C1)OC | C15H16N2O3
reactant | methane sulfonic acid | 0.27 mmol, 16 μl | CS(=O)(=O)O | CH4O3S
solvent | diglyme | 1 ml | COCCOCCOC | C6H14O3
product | dihydro-quinazolinone | N1C(NCC2=CC=CC=C12)=O | C8H8N2O
